US08232307B2
(Method 1): To a solution of K2CO3 (1.9 mmol) and (R)-(6-bromo-indan-1-yl)-dimethyl-amine (1 mmol) in 1,2-dimethoxyethane (8.8 mL)/water (1.2 mL) was added Pd(PPh3)4 (0.1 mmol) and 1,3,5-trimethyl-1H-pyrazole-4-boronic acid pinacol ester (1.2 mmol). The reaction mixture was degassed and stirred at 85° C. for 6 h. The solvent was evaporated, crude was redissolved in dichloromethane and filtered through a pad of Celite. The filtrate was extracted with 6M HCl (3×0.16 mL). The aqueous layer was basified with 6M NaOH to pH 13 and extracted with dichloromethane. The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated in vacuo. Crude was purified by flash chromatography (CH2Cl2-MeOH-NEt3 as eluents) to yield (1R)-dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine as an oil (52% yield). Product was obtained with a final ee of 99.6% (determined by chiral HPLC).

reactant | K2CO3 | 1.9 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | (R)-(6-bromo-indan-1-yl)-dimethyl-amine | 1 mmol | BrC1=CC=C2CC[C@H](C2=C1)N(C)C | C11H14BrN
reactant | water | 1.2 mL | O | H2O
reactant | 1,3,5-trimethyl-1H-pyrazole-4-boronic acid pinacol ester | 1.2 mmol | CN1N=C(C(=C1C)B1OC(C)(C)C(C)(C)O1)C | C12H21BN2O2
solvent | 1,2-dimethoxyethane | 8.8 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.1 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R)-dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine | 52% yield | CN([C@@H]1CCC2=CC=C(C=C12)C=1C(=NN(C1C)C)C)C | C17H23N3
